US05332757
Using an analogous procedure to that described in Example 7, 2'-benzyloxy-4'-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylthio]acetophenone was reacted with hydroxylamine hydrochloride to give (E)-2'-benzyloxy-4'-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylthio]acetophenone oxime in 47% yield, m.p. 130°-131° C.;

reactant | 2'-benzyloxy-4'-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylthio]acetophenone | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)SC1=CC(=CC(=C1)F)C1(CCOCC1)OC)C(C)=O | C27H27FO4S
reactant | hydroxylamine hydrochloride | Cl.NO
product | (E)-2'-benzyloxy-4'-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylthio]acetophenone oxime | 47% yield | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)SC1=CC(=CC(=C1)F)C1(CCOCC1)OC)/C(/C)=N/O | C27H28FNO4S
